US03950528
3-Amino-1-(4-isopropylbenzyl)-pyrazol-5-one ##SPC37##
32 g of p-isopropylbenzylhydrazine were added, under nitrogen, to a solution of 31.8 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 150 ml of ethanol. After stirring for a further two hours, the mixture was left to stand overnight. The compound identified above, which separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 105°, 18.3 g (40%).

reactant | p-isopropylbenzylhydrazine | 32 g | C(C)(C)C1=CC=C(CNN)C=C1 | C10H16N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 31.8 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Amino-1-(4-isopropylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)C(C)C | C13H17N3O
